US07495103B2
A mixture of 2′-ethoxy-2-nitrobipenyl-4-yl amine (0.98 g, 4.0 mmol) and Boc2O (2.6 g, 12 mmol) was heated with a heat gun. Upon the consumption of the starting material as indicated by TLC, the crude mixture was purified by flash chromatography (silica gel, CH2Cl2) to provide (2′-ethoxy-2-nitrobiphenyl-4-yl)-carbamic acid tert-butyl ester (1.5 g, 83%). 1H NMR (300 MHz, CDCl3) δ 7.99 (s, 1H), 7.55 (d, J=8.4 Hz, 1H), 7.25 (m, 3H), 6.99 (t, J=7.5 Hz, 1H), 6.82 (m, 2H), 3.88 (q, J=6.9 Hz, 2H), 1.50 (s, 9H), 1.18 (t, J=6.9 Hz, 3H); HPLC ret. time 3.30 min, 10-100% CH3CN, 5 min gradient.

reactant | 2′-ethoxy-2-nitrobipenyl-4-yl amine | 4.0 mmol, 0.98 g | C(C)OC1=C(C=CC=C1)C1=C(C=C(C=C1)N)[N+](=O)[O-] | C14H14N2O3
reactant | Boc2O | 12 mmol, 2.6 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | (2′-ethoxy-2-nitrobiphenyl-4-yl)-carbamic acid tert-butyl ester | 1.5 g, 83% | C(C)(C)(C)OC(NC1=CC(=C(C=C1)C1=C(C=CC=C1)OCC)[N+](=O)[O-])=O | C19H22N2O5
